US03950333
N-Cyano-N'-methyl-N"-[3-(2-oxazolyl)thiopropyl]guanidine
Reaction of N-methyl-N'-[3-(2-oxazolyl)thiopropyl]-thiourea with lead cyanamide by the procedure of Example 121 gives the title compound.

reactant | N-methyl-N'-[3-(2-oxazolyl)thiopropyl]-thiourea | CNC(=S)NCCCSC=1OC=CN1 | C8H13N3OS2
reactant | lead cyanamide | N#CN.[Pb]
product | N-Cyano-N'-methyl-N"-[3-(2-oxazolyl)thiopropyl]guanidine | C(#N)NC(=NCCCSC=1OC=CN1)NC | C9H13N5OS
